US08372884B2
Synthesis of ((R)-2-(3-(3-ethoxy-3-oxopropyl)thioureido)-3-((2E,6E)-3,7,11-trimethyldodeca-2,6,10-trienylthio)propanoic acid) (Compound N-73):
In a 100 mL round bottom flask, to a suspension of ethyl-3-isothiocynato propionate (159 mg, 1 mmol) and S-trans, trans-farnesyl-L-cysteine (325 mg, 1 mmol) in THF (5 mL) was added N,N-diisopropyl-ethyl-amine (0.87 mL, 5 mmol) dropwise. The solution was stirred at room temperature overnight. The mixture was diluted with ethyl acetate (60 mL) and washed by 0.5 N HCl (10 mL×1), H2O (10 mL×1) and brine (10 mL×1). The organic layer was dried over Na2SO4 and concentrated in vacuo. The residue was purified by preparative HPLC (220 mg, 45%) to yield Compound N-73. 1H-NMR (500 MHz, CD3OD): δ 1.17 (t, J=5.0 Hz, 3H), 1.50 (s, 3H), 1.51 (s, 3H), 1.57 (s, 3H), 1.59 (s, 3H), 1.86-2.06 (m, 8H), 2.54 (t, J=5.0 Hz, 2H), 2.77 (dd, J=5.0, 15.0 Hz, 1H), 2.95-2.96 (m, 1H), 3.05-3.06 (m, 1H), 3.16-3.20 (m, 1H), 3.68 (broad, 2H), 4.06 (q, J=5.0 Hz, 2H), 5.00-5.01 (m, 2H), 5.09-5.14 (m, 2H). 13C-NMR (125 MHz, CD3OD): δ 14.65, 16.19, 16.31, 17.83, 25.97, 27.39, 27.80, 30.70, 33.22, 33.91, 34.80, 40.80, 40.90, 57.89, 61.03, 61.71, 61.93, 121.35, 121.70, 125.16, 132.11, 136.24, 140.52, 173.76, 174.47, 210.16; ES-MS: mass calcd for Chemical Formula: C24H40N2O4S2 484.72. Found (M+) m/z 485.3, (M+Na) m/z 507.3.

reactant | ethyl-3-isothiocynato propionate | 1 mmol, 159 mg | CCOC(=O)CCN=C=S | C6H9NO2S
reactant | trans-farnesyl-L-cysteine | 1 mmol, 325 mg | CC(=CCC/C(=C/CC/C(=C/CSC[C@@H](C(=O)O)N)/C)/C)C | C18H31NO2S
reactant | N,N-diisopropyl-ethyl-amine | 5 mmol, 0.87 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | (R)-2-(3-(3-ethoxy-3-oxopropyl)thioureido)-3-((2E,6E)-3,7,11-trimethyldodeca-2,6,10-trienylthio)propanoic acid | C(C)OC(CCNC(N[C@H](C(=O)O)CSC\C=C(\CC\C=C(\CCC=C(C)C)/C)/C)=S)=O | C24H40N2O4S2
